US06479487B1
1-(5-Methoxypentyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-5-methoxypentane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-5-methoxypentane | ClCCCCCOC | C6H13ClO
product | 1-(5-Methoxypentyl)-4-piperidone | COCCCCCN1CCC(CC1)=O | C11H21NO2
